US08080563B2
A mixture of methyl 3-hydroxy-4-methoxy-2-nitrobenzoate (1.14 g, 5.0 mmol), bromocyclopentane (0.7 mL, 6.5 mmol), potassium carbonate (2.0 g, 14 mmol), and anhydrous acetonitrile (15 mL) was refluxed under N2. After 19 h, the reaction was allowed to cool to rt, concentrated, and purified by silica gel chromatography (4:1→3:2; hexanes:ethyl acetate) to give methyl 3-(cyclopentyloxy)-4-methoxy-2-nitrobenzoate: MS (ESI): 296.5.

reactant | methyl 3-hydroxy-4-methoxy-2-nitrobenzoate | 5.0 mmol, 1.14 g | OC=1C(=C(C(=O)OC)C=CC1OC)[N+](=O)[O-] | C9H9NO6
reactant | bromocyclopentane | 6.5 mmol, 0.7 mL | BrC1CCCC1 | C5H9Br
reactant | potassium carbonate | 14 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | methyl 3-(cyclopentyloxy)-4-methoxy-2-nitrobenzoate | C1(CCCC1)OC=1C(=C(C(=O)OC)C=CC1OC)[N+](=O)[O-] | C14H17NO6
